US06326375B1
(2) Preparation of 4-methylenespiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3-one
A suspension of methyltriphenylphosphonium bromide (715 mg) in anhydrous tetrahydrofuran (7.0 mL) was cooled to 0° C. under an atmosphere of nitrogen, to which n-butyllithium (1.53M solution in hexane, 1.3 mL) was added, stirred at that temperature for 20 minutes and then cooled to −78° C. A solution of spiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3′,4-dione (216 mg) in anhydrous tetrahydrofuran (3 mL) was added to the reaction mixture and the temperature was raised to 0° C. After stirring for 20 minutes, aqueous ammonium chloride was added to thus obtained mixture and the resulting crude product was extracted with ethyl acetate. The organic layer was washed with saturated saline solution, then dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=4/1) to give the subject compound (196 mg).

reactant | n-butyllithium | 1.53M, 1.3 mL | C(CCC)[Li]
reactant | spiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3′,4-dione | 216 mg | C12(OC(C3=CC=CC=C13)=O)CCC(CC2)=O | C13H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 715 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-methylenespiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3-one | 196 mg | C=C1C(CC2(OCC3=CC=CC=C23)CC1)=O | C14H14O2
